US04111923
(e) L-Seryl-L-tyrosyl-D-alanyl-L-leucine, methyl ester, hydrochloride
A solution of 3 g. of Nα -benzyloxycarbonyl-L-seryl-L-tyrosyl-D-alanyl-L-leucine, methyl ester in 100 ml. of methanol containing 3.7 ml. of 1.35 N hydrogen chloride in methanol is stirred with 200 mg. of 20% palladium on carbon under one inch of water pressure of hydrogen for three hours. Thin layer chromatography of samples of the solution shows disappearance of the starting material in about two hours. The reaction mixture is filtered to remove the catalyst and the filtrate evaporated at 30°-40° C. to yield the product as a foam. The product is used without further purification.

reactant | Nα -benzyloxycarbonyl-L-seryl-L-tyrosyl-D-alanyl-L-leucine, methyl ester | C(C1=CC=CC=C1)OC(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CC(C)C)C(=O)OC | C30H40N4O9
reactant | hydrogen chloride | 1.35 N | Cl | ClH
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | 3.7 ml | CO | CH4O
product | L-Seryl-L-tyrosyl-D-alanyl-L-leucine, methyl ester, hydrochloride | Cl.N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CC(C)C)C(=O)OC | InChI=1S/C22H34N4O7.ClH/c1-12(2)9-18(22(32)33-4)26-19(29)13(3)24-21(31)17(25-20(30)16(23)11-27)10-14-5-7-15(28)8-6-14;/h5-8,12-13,16-18,27-28H,9-11,23H2,1-4H3,(H,24,31)(H,25,30)(H,26,29);1H/t13-,16+,17+,18+;/m1./s1
